US08058276B2
Step 4.1: 6-(2-Chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester
A suspension of 2.7 g (18.1 mMol) 2,4-dichloropyrimidine, 4.12 g (19.9 mMol) 6-hydroxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester [preparation see: J. Am. Chem. Soc. 97 (1974), 7305] and 8.45 g (39.8 mMol) K3PO4 in 90 ml NMP is stirred for 22 h at rt. Then the mixture is diluted with 0.5 l CH2Cl2 and 0.9 l of a 5% citric acid solution. The organic phase is separated off, washed with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; CH2Cl2) gives the title compound: MS: [M+1]+=320; TLC(CH2Cl2/EtOAc 49:1): Rf=0.42.

reactant | 2,4-dichloropyrimidine | 18.1 mMol, 2.7 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 6-hydroxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester | 19.9 mMol, 4.12 g | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)O | C10H9NO4
reactant | K3PO4 | 39.8 mMol, 8.45 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | NMP | 90 ml | CN1CCCC1=O | C5H9NO
solvent | CH2Cl2 | 0.5 l | C(Cl)Cl | CH2Cl2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 6-(2-Chloro-pyrimidin-4-yloxy)-benzo[d]isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)OC2=NC(=NC=C2)Cl | C14H10ClN3O4
